US08106212B2
200 mg (1.44 mmol) of 4-(cyclopropylamino)furan-2(5H)-one (VI-1) and 86 mg (2.17 mmol) of a 60% strength dispersion of sodium hydride in mineral oil in 100 ml of tetrahydrofuran are heated under reflux for 1 hour. After cooling to room temperature, 478 mg (1.44 mmol) of 3-bromomethyl-6-chloro-5-iodopyridine (VII-3) are added, and the mixture is heated under reflux for a further 6 hours. After cooling of the reaction mixture to room temperature and addition of methanol, the mixture is concentrated under reduced pressure. The residue is taken up in ethyl acetate and the mixture is washed successively twice with 1 N aqueous hydrochloric acid, twice with 1 N aqueous sodium hydroxide solution and saturated sodium chloride solution and dried over sodium sulphate. Concentration of the organic phase under reduced pressure and purification of the residue by column chromatography on silica gel (silica gel 60-Merck, particle size: 0.04 to 0.063 mm) using the mobile phase mixture ethyl acetate:cyclohexane (3:1) gives 149 mg (26% of theory) of 4-[[(6-chloro-5-iodopyridin-3-yl)methyl](cyclopropyl)amino]furan-2(5H)-one.

reactant | 4-(cyclopropylamino)furan-2(5H)-one | 1.44 mmol, 200 mg | C1(CC1)NC1=CC(OC1)=O | C7H9NO2
reactant | sodium hydride | [H-].[Na+]
reactant | 3-bromomethyl-6-chloro-5-iodopyridine | 1.44 mmol, 478 mg | BrCC=1C=NC(=C(C1)I)Cl | C6H4BrClIN
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-[[(6-chloro-5-iodopyridin-3-yl)methyl](cyclopropyl)amino]furan-2(5H)-one | 149 mg, 26% | ClC1=C(C=C(C=N1)CN(C1=CC(OC1)=O)C1CC1)I | C13H12ClIN2O2
